US06608048B2
4-(4-Chlorobutyl)-9-(2,4-dichloroanilino)-3,4-dihydo-2H-[1,4]oxazino[2,3-g]quinoline-8-carbonitrile
An amount of 100 mg (0.27 mmol) of 9-(2,4-dichloroanilino)-3,4-dihydro-2H-[1,4]oxazino[2,3-g]quinoline-8-carbonitrile, was stirred in N,N-dimethylformamide (2 mL), and to this was added a solution of 4-chloro-butyraldehyde (719 mg, 6.8 mmol) in tetrahydrofuran (2 mL) and trifluoroacetic acid (1.4 mL). The reaction mixture was stirred at room temperature, and to this was added sodium borohydride (128 mg, 3.4 mmol) portionwise, in 1.5 hours. The mixture was stirred for 16 hours, basified with saturated sodium bicarbonate solution, and extracted with ethyl acetate. After separation of the layers, the organic layer was washed with saturated brine solution, dried over sodium sulfate and evaporated to an oil. Purification was done by flash chromatography (10% acetone in dichloromethane) to give a yellow solid (66 mg, 53% yield), m.p 56-57° C.; 1H NMR (DMSO-d6) δ 9.92 (bs, 1H), 8.59 (s, 1H), 7.81 (d, 2H), 7.51 (m, 2H), 6.98 (s, 1H), 4.30 (t, 2H), 3.70 (t, 2H), 3.57 (t, 2H), 3.51 (t, 2H), 1.80 (m, 4H); HRMS (EI) m/z 461.06917 (M+1). Analysis for C22H19Cl3N4O.0.7CH3CO2C2H5.3.9H2O Found: C, 49.81; H, 3.78; N, 9.65. Calcd: C, 50.12; H, 5.46; N, 9.43.

reactant | 9-(2,4-dichloroanilino)-3,4-dihydro-2H-[1,4]oxazino[2,3-g]quinoline-8-carbonitrile | 0.27 mmol, 100 mg | ClC1=C(NC2=C(C=NC=3C=C4C(=CC23)OCCN4)C#N)C=CC(=C1)Cl | C18H12Cl2N4O
reactant | 4-chloro-butyraldehyde | 6.8 mmol, 719 mg | ClCCCC=O | C4H7ClO
reactant | sodium borohydride | 3.4 mmol, 128 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | trifluoroacetic acid | 1.4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(4-Chlorobutyl)-9-(2,4-dichloroanilino)-3,4-dihydo-2H-[1,4]oxazino[2,3-g]quinoline-8-carbonitrile | 66 mg, 53% yield | ClCCCCN1CCOC2=CC=3C(=C(C=NC3C=C21)C#N)NC2=C(C=C(C=C2)Cl)Cl | C22H19Cl3N4O
